US07018988B2
(2S,4EZ)-N-(2,1,3-benzothiadiazol-4-yl)-1-benzoyl-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, benzoyl chloride, and 2,1,3-benzothiadiazol-4-amine the title compound was obtained in 61% purity by LC/MS. MS(ESI+): m/z=502.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2,1,3-benzothiadiazol-4-amine | N=1SN=C2C1C=CC=C2N | C6H5N3S
product | (2S,4EZ)-N-(2,1,3-benzothiadiazol-4-yl)-1-benzoyl-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxamide | N=1SN=C2C1C=CC=C2NC(=O)[C@H]2N(CC(C2)=NOCC2=CC=C(C=C2)OC)C(C2=CC=CC=C2)=O | C26H23N5O4S
